US03983111
21-Morpholino-5α-pregnane-3,11,20-trione
A solution of 21-bromo-5α-pregnane-3,11,20-trione (500 mg) in dry tetrahydrofuran was treated at reflux with morpholine (0.5 ml) for 1/2 hour, and poured into water. The oily precipitate was extracted into ether and the extracts were washed with water, dried (Na2SO4) and evaporated to the crude product which was purified by preparative t.l.c. in ethyl acetate and crystallisation from ether to give the title compound (220 mg). m.p. 159°-164°C [α]D +98° (c=1.1%)

reactant | 21-bromo-5α-pregnane-3,11,20-trione | 500 mg | BrCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4CC(CC[C@]4(C)[C@H]3C(C[C@]12C)=O)=O)=O | C21H29BrO3
reactant | morpholine | 0.5 ml | N1CCOCC1 | C4H9NO
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 21-Morpholino-5α-pregnane-3,11,20-trione | 220 mg | O1CCN(CC1)CC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4CC(CC[C@]4(C)[C@H]3C(C[C@]12C)=O)=O)=O | C25H37NO4
